US06350907B1
1-Iodo-3-methyl-4-phenoxybenzene.
Aqueous sodium hydroxide (33 mL, 1M, 33 mmol) was added to a mixture of 4-iodo-2-methylphenol (7.0 gm, 29.9 mmol) and diphenyliodonium bromide (11.89 gm, 32.9 mmol) in water (120 mL), and the mixture was heated under reflux for 4 h. After being cooled, the reaction mixture was extracted with ethyl acetate (4×100 mL), combined extracts were washed with saturated aqueous sodium chloride, dried (MgSO4), and concentrated under reduced pressure. The residual dark orange oil was purified by repeated flash chromatography (eluting with hexane for the first column, then pentane for the second) to give the title compound as an orange oil (7.84 gm, 84%).

reactant | sodium hydroxide | 33 mmol, 1M, 33 mL | [OH-].[Na+]
reactant | 4-iodo-2-methylphenol | 29.9 mmol, 7.0 gm | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | diphenyliodonium bromide | 32.9 mmol, 11.89 gm | [Br-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | water | 120 mL | O | H2O
product | 1-Iodo-3-methyl-4-phenoxybenzene | 7.84 gm, 84% | IC1=CC(=C(C=C1)OC1=CC=CC=C1)C | C13H11IO
